US08937078B2
Step A: Preparation of 7-chloro-1H-quinazoline-2,4-dione.
A mixture of 2-amino-4-chlorobenzoic acid (2.00 g, 11.6 mmol) and urea (2.80 g, 46.6 mmol) was heated to 200° C. for 1 h. The mixture was allowed to cool to room temperature and the resulting mass was triturated well with water. The product was collected by filtration (2.30 g, 100%). The MS and NMR data are in agreement with those that have been previously described: Organic Process Research & Development, 2003, 7, 700-706. 1H NMR (600 MHz, DMSO-d6): 12.00 (br s, 2H), 8.59-8.53 (m, 1H), 7.93-7.80 (m, 2H).

reactant | 2-amino-4-chlorobenzoic acid | 11.6 mmol, 2.00 g | NC1=C(C(=O)O)C=CC(=C1)Cl | C7H6ClNO2
reactant | urea | 46.6 mmol, 2.80 g | NC(=O)N | CH4N2O
product | 7-chloro-1H-quinazoline-2,4-dione | ClC1=CC=C2C(NC(NC2=C1)=O)=O | C8H5ClN2O2
